US07691843B2
3-(3-Fluorophenylethynyl)-4,5-dimethoxybenzoic acid was prepared by coupling 1-ethynyl-3-fluorobenzene with 3-iodo-4,5-dimethoxybenzoic acid Method R. The crude product was purified via flash column chromatography on silica gel (5% MeOH in CH2Cl2 as an eluent) to give 3-(3-fluorophenylethynyl)-4,5-dimethoxybenzoic acid in 95% yield. ESMS: m/z 299.3 [M−H].

reactant | 1-ethynyl-3-fluorobenzene | C(#C)C1=CC(=CC=C1)F | C8H5F
reactant | 3-iodo-4,5-dimethoxybenzoic acid | IC=1C=C(C(=O)O)C=C(C1OC)OC | C9H9IO4
product | 3-(3-fluorophenylethynyl)-4,5-dimethoxybenzoic acid | FC=1C=C(C=CC1)C#CC=1C=C(C(=O)O)C=C(C1OC)OC | C17H13FO4
